* Extracted by KLayout with GF180MCU LVS runset on : 02/08/2026 21:39

.SUBCKT programmable_nfet VSS ena_bar<1> g VDD ena<1> ena_bar<0> ena<0>
X$10 g \$3 VDD VSS ena_bar<1> ena<1> transmission_gate
X$13 g \$18 VDD VSS ena_bar<0> ena<0> transmission_gate
M$1 VSS ena_bar<0> \$18 VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P
+ PS=2.1U PD=2.1U
M$2 VSS ena_bar<1> \$3 VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P
+ PS=2.1U PD=2.1U
M$3 \$4 g \$1 VSS nfet_03v3 L=0.5U W=34.2U AS=20.862P AD=20.862P PS=72.06U
+ PD=72.06U
M$5 \$4 \$18 \$1 VSS nfet_03v3 L=0.5U W=34.2U AS=20.862P AD=20.862P PS=72.06U
+ PD=72.06U
M$9 \$1 \$3 \$4 VSS nfet_03v3 L=0.5U W=68.4U AS=29.754P AD=29.754P PS=107.82U
+ PD=107.82U
.ENDS programmable_nfet

.SUBCKT transmission_gate in out VDD VSS ena_bar ena
M$1 out ena_bar in VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$2 out ena in VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
.ENDS transmission_gate
